US05677291
2,6-Di-t-butyl-4[(trimethylsilyl)methylthio]phenol (Compound C)
Mix 2,6-di-t-butyl-4-mercaptophenol (2.4 g, 10 mmol), potassium carbonate (1.4 g, 10 mmol), and dimethylacetamide (50 mL) and stir at room temperature under argon atmosphere. Add chloromethyltrimethylsilane (1.3 g, 10 mmol) and stir overnight. Warm on a steam bath for 2 hours, cool, and dilute with water. Extract with ethyl ether, dry, evaporate to a light yellow solid (2.8 g) and recrystallize (CH3CN) to give 1.1 g (34%) of the title compound; mp 100°-101° C.

reactant | 2,6-di-t-butyl-4-mercaptophenol | 10 mmol, 2.4 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
reactant | chloromethyltrimethylsilane | 10 mmol, 1.3 g | ClC[Si](C)(C)C | C4H11ClSi
solvent | water | O | H2O
product | 2,6-Di-t-butyl-4[(trimethylsilyl)methylthio]phenol | 1.1 g, 34% | C(C)(C)(C)C1=C(C(=CC(=C1)SC[Si](C)(C)C)C(C)(C)C)O | C18H32OSSi
